US08440417B2
Step 2: Preparation of N-(3,4-dimethoxybenzyl)-6-phenylnicotinamide (Compound 12)
To a mixture consisting of 6-bromo-N-(3,4-dimethoxybenzyl)nicotinamide (1.11 g), phenylboronic acid (0.77 g), and tetrakis(triphenylphosphine)palladium(0) (0.365 g) in N,N-dimethylformamide (20 mL) under a nitrogen atmosphere was added a 2 M aqueous cesium carbonate (6 mL). The stirring mixture was heated to 90° C. for two hours and was subsequently partitioned between ethyl acetate (200 mL) and water (200 mL). The phases were separated and the organic phase was washed twice with fresh portions of water (2×200 mL) and brine solution (150 mL), was dried over anhydrous sodium sulfate, filtered, and concentrated under reduced pressure to provide an orange solid. The solid was triturated with 1:1 v/v hexanes-ethyl acetate and collected by filtration to afford the title compound as a solid (0.447 g, 40.6% yield); 1H-NMR (300 MHz; CDCl3) δ 9.06 (d, 1H, J=2.1 Hz), 8.20 (dd, 1H, J=8.4, 2.4 Hz), 8.05-8.01 (m, 2H), 7.81 (dd, 1H, J=8.4, 0.6 Hz), 7.51-7.47 (m, 3H), 6.92-6.84 (m, 3H), 6.51 (broad t, 1H), 4.62 (d, 2H, J=5.7 Hz), 3.891 (s, 3H), 3.888 (s, 3H); Rf 0.17 with 7:3 v/v hexanes-ethyl acetate; MS (APCl+) m/z 349 (M+1).

reactant | 6-bromo-N-(3,4-dimethoxybenzyl)nicotinamide | 1.11 g | BrC1=NC=C(C(=O)NCC2=CC(=C(C=C2)OC)OC)C=C1 | C15H15BrN2O3
reactant | phenylboronic acid | 0.77 g | C1(=CC=CC=C1)B(O)O | C6H7BO2
reactant | cesium carbonate | 2 M, 6 mL | C([O-])([O-])=O.[Cs+].[Cs+]
solvent | N,N-dimethylformamide | 20 mL | CN(C=O)C | C3H7NO
catalyst | tetrakis(triphenylphosphine)palladium(0) | 0.365 g | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | N-(3,4-dimethoxybenzyl)-6-phenylnicotinamide | 0.447 g, 40.6% yield | COC=1C=C(CNC(C2=CN=C(C=C2)C2=CC=CC=C2)=O)C=CC1OC | C21H20N2O3
